US05498630
2-[(1,1-Dimethylethyl)sulfinyl]-N-ethyl-6-fluorobenzamide
A 0° C. solution of N-ethyl-2-fluoro-6-(1,1-dimethylethylthio)benzamide (3.45 g, 13.51 mmol) in methanol (100mL) was combined with a 0° C. solution of OXONE® (8.31 g, 13.51 mmol) in water (100 mL). This mixture was stirred for 2 min, then was poured into 25% aq sodium metabisulfite (100 mL) and extracted with ether (3×100 mL). The combined organics were washed with brine followed with water, then was dried (MgSO4), concentrated, and recrystallized from ethyl acetate-hexanes to afford 2.2 g of the title compound as a white solid, a 60% yield. m.p. 114°-116° C.

reactant | N-ethyl-2-fluoro-6-(1,1-dimethylethylthio)benzamide | 13.51 mmol, 3.45 g | C(C)NC(C1=C(C=CC=C1SC(C)(C)C)F)=O | C13H18FNOS
reactant | OXONE | OOS(=O)[O-].[K+]
reactant | sodium metabisulfite | 100 mL | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | methanol | 100mL | CO | CH4O
solvent | water | 100 mL | O | H2O
product | 2-[(1,1-Dimethylethyl)sulfinyl]-N-ethyl-6-fluorobenzamide | 2.2 g, 60% yield | CC(C)(C)S(=O)C1=C(C(=O)NCC)C(=CC=C1)F | C13H18FNO2S
